US07906546B2
To a stirred solution of 525 mg (2.7 mmol) of 5-chloromethyl-3-phenyl-[1,2,4]oxadiazole in acetonitrile at RT, 465 mg (2.8 mmol, 1.05 eq) of sodium benzenesulfinate and 143 mg (0.5 mmol, 0.2 eq) of 18-crown-6 were added. Stirring was continued overnight, and an additional 50 mg (0.3 mmol, 0.12 eq) of sodium benzenesulfinate were added and the reaction mixture was allowed to stirr for one further hour. The solvent was evaporated and the resulting oil was taken up in EtOAc, washed with a saturated NaHCO3 solution. The organic phase was dried over Na2SO4, filtered and evaporated. Column chromatography on silica gel (heptane/EtOAc 8:2) yielded 622 mg (77%) of 5-benzenesulfonylmethyl-3-phenyl-[1,2,4]oxadiazole as a white solid, MS: 301 (MH+).

reactant | 5-chloromethyl-3-phenyl-[1,2,4]oxadiazole | 2.7 mmol, 525 mg | ClCC1=NC(=NO1)C1=CC=CC=C1 | C9H7ClN2O
reactant | sodium benzenesulfinate | 2.8 mmol, 465 mg, 1.05 eq | C1(=CC=CC=C1)S(=O)[O-].[Na+]
reactant | 18-crown-6 | 0.5 mmol, 143 mg, 0.2 eq | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | sodium benzenesulfinate | 0.3 mmol, 50 mg, 0.12 eq | C1(=CC=CC=C1)S(=O)[O-].[Na+]
solvent | acetonitrile | C(C)#N | C2H3N
product | 5-benzenesulfonylmethyl-3-phenyl-[1,2,4]oxadiazole | 622 mg, 77% | C1(=CC=CC=C1)S(=O)(=O)CC1=NC(=NO1)C1=CC=CC=C1 | C15H12N2O3S
